US06239147B1
To a stirred solution of 6-hydroxy-1-methyl-1-trifluoromethylisochroman (79 g, 0.34 mol) and triethylamine (120 mL, 0.88 mol) in THF (680 mL) was added acetyl chloride (31 mL, 0.44 mol) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction was quenched by adding aqueous 1 N-HCl (400 mL), and extracted with ethyl acetate (500 mL). The extracts were washed with aqueous saturated NaHCO3 (100 mL) and brine (100 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography (Silica-gel, 15×20 cm, 6% ethyl acetate/hexane) to afford 6-acetoxy-1-methyl-1-trifluoromethylisochroman (83 g, 89%) as a colorless oil. 1H-NMR(CDCl3): 7.36 (d, J=7.2 Hz, 1H), 6.98 (dd, J=7.2, 2.5 Hz, 1H), 6.91 (d, J=2.5 Hz, 1H), 4.18-4.08 (m, 1H), 3.92 (dt, J=11, 5.4 Hz, 1H), 2.86 (t, J=5.4 Hz, 2H), 2.30 (s, 1H), 1.66 (s, 3H).

reactant | 6-hydroxy-1-methyl-1-trifluoromethylisochroman | 0.34 mol, 79 g | OC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C11H11F3O2
reactant | triethylamine | 0.88 mol, 120 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.44 mol, 31 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 680 mL | C1CCOC1 | C4H8O
product | 6-acetoxy-1-methyl-1-trifluoromethylisochroman | 83 g, 89% | C(C)(=O)OC=1C=C2CCOC(C2=CC1)(C(F)(F)F)C | C13H13F3O3
